US04476137
To a solution of 2-indolyl hydrazine (1.47 g.) in THF (100 ml.) was added acrylonitrile (0.75 g.) and five drops of 2N sodium hydroxide solution. The reaction mixture was heated under reflux for eight hours and then concentrated in vacuo. The residue was dissolved in ethanol, treated with activated charcoal, filtered and cncentrated again to give 3-[1-(2-indolyl)hydrazino]propanenitrile, crystallized from ether-ethanol, m.p. 120°-122° C.

reactant | 2-indolyl hydrazine | 1.47 g | N1C(=CC2=CC=CC=C12)NN | C8H9N3
reactant | acrylonitrile | 0.75 g | C(C=C)#N | C3H3N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | sodium hydroxide | 2N, five drops | [OH-].[Na+]
product | 3-[1-(2-indolyl)hydrazino]propanenitrile | N1C(=CC2=CC=CC=C12)N(N)CCC#N | C11H12N4
